US07098212B2
3-(3-{2-[4-(4-Fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-6-methyl-pyridin-2-yl)-propionic acid ethyl ester
To a solution of 3-(3-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-6-methyl-pyridin-2-yl)-acrylic acid ethyl ester (0.54 g, 1.15 mmol) in EtOH (5.0 mL) was added platinum oxide (0.050 g) and the mixture was hydrogenated at 45 psi for 90 minutes. The mixture was filtered through celite and concentrated in vacuo to give the title compound (0.50 g).

reactant | 3-(3-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-6-methyl-pyridin-2-yl)-acrylic acid ethyl ester | 1.15 mmol, 0.54 g | C(C)OC(C=CC1=NC(=CC=C1OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)C)=O | C26H32FN3O4
solvent | EtOH | 5.0 mL | CCO | C2H6O
catalyst | platinum oxide | 0.050 g | [Pt]=O
product | 3-(3-{2-[4-(4-Fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-6-methyl-pyridin-2-yl)-propionic acid ethyl ester | 0.50 g | C(C)OC(CCC1=NC(=CC=C1OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)C)=O | C26H34FN3O4
